US05128355
Part B: Preparation of 1-(4-Aminobenzyl)-2-n-butyl-4-chloro-5-(methoxymethyl)imidazole
To a solution of 2-n-butyl-4-chloro-5-methoxymethyl-1-(4-nitrobenzyl)imidazole (11.22 g) in methanol (100 mL) under N2 was carefully added 1.0 g of 10% palladium on charcoal. Hydrogen gas was then bubbled through the solution for 4 hours. The solution was filtered through Celite ® and the solvent removed in vacuo to yield 9.23 g of an amber oil. NMR (200 MHz, CDCl3) δ 7.99 (s, 1H); 6.78 (d of d, 4H, J=5,5Hz); 5.05 (s, 2H); 4.24 (s, 2H); 3.27 (s, 3H); 2.59 (t, 2H, J=7Hz); 1.62 (t of t, 2H, J=7,7Hz); 1.32 (t of q, 2H, J=7,7Hz); 0.84 (t, 3H,J=7Hz). Mass Calcd. for C16H23ClN3O; 307.1451. Found: 307.1460.

reactant | 2-n-butyl-4-chloro-5-methoxymethyl-1-(4-nitrobenzyl)imidazole | 11.22 g | C(CCC)C=1N(C(=C(N1)Cl)COC)CC1=CC=C(C=C1)[N+](=O)[O-] | C16H20ClN3O3
solvent | methanol | 100 mL | CO | CH4O
catalyst | palladium on charcoal | 1.0 g | [Pd] | Pd
product | 1-(4-Aminobenzyl)-2-n-butyl-4-chloro-5-(methoxymethyl)imidazole | 9.23 g | NC1=CC=C(CN2C(=NC(=C2COC)Cl)CCCC)C=C1 | C16H22ClN3O
